US06057369
(±)-3-(4-Methoxyphenylsulfanyl)-2-methyl-7-phenylheptanoic acid (0.38 g, 1.1 mmol) is dissolved in CH2Cl2 (1 mL) and cooled to 0° C. A solution of oxalyl chloride in CH2Cl2 (0.7 mL, 1.4 mmol) is added dropwise, the bath removed and the reaction allowed to warm and stir at 23° C. for 3 hours. The reaction is then concentrated in vacuo and azeotroped with CHCl3. The resulting oil is dissolved in CH2Cl2 (3 mL), cooled to 0° C. and O-(trimethylsilyl)hydroxylamine (0.4 mL, 3.4 mmol) is added dropwise. The bath is removed and the reaction is allowed to warm to 20° C. The reaction is then partitioned between CH2Cl2 (20 mL) and 1 N HCl (10 mL). The organic layer is then separated and washed with water (10 mL), dried (MgSO4) and concentrated in vacuo to yield (±)-3-(4-methoxyphenylsulfanyl)-2-methyl-7-phenylheptanoic acid hydroxyamide (0.37 g, 90%) which is used without further purification: 1H NMR (300 MHz, CDCl3) δ 7.30-7.18 (m, 4H), 7.14-7.07 (m, 3H), 7.80-7.73 (m, 2H), 3.73 (s, 1.5H), 3.72 (s, 1.5H), 3.12-3.06 (m, 0.5H), 2.97-2.90 (m, 0.5H), 2.53 (m, 2H), 2.32-2.19 (m, 1H), 1.68-1.25 (m, 6H) 1.16 (d, J=7.0 Hz, 1.5H), 1.11 (d, J=7.0 Hz, 1.5H); MS (FAB) m/e 374 (M+H)+.

reactant | (±)-3-(4-Methoxyphenylsulfanyl)-2-methyl-7-phenylheptanoic acid | 1.1 mmol, 0.38 g | COC1=CC=C(C=C1)SC(C(C(=O)O)C)CCCCC1=CC=CC=C1 | C21H26O3S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | O-(trimethylsilyl)hydroxylamine | 3.4 mmol, 0.4 mL | C[Si](ON)(C)C | C3H11NOSi
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.4 mmol, 0.7 mL | C(Cl)Cl | CH2Cl2
product | (±)-3-(4-methoxyphenylsulfanyl)-2-methyl-7-phenylheptanoic acid hydroxyamide | 0.37 g, 90% | ONC(C(C(CCCCC1=CC=CC=C1)SC1=CC=C(C=C1)OC)C)=O | C21H27NO3S
